US04988814
2,2-Dimethylpropanoic acid 3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl ester
To a stirred solution of 3-[4-(2-methoxyphenyl)-1-piperazinyl]propanol (4.76 g, 0.019 mol) and triethylamine (6 g, 0.06 mol) in 100 mL of methylene chloride was added pivaloyl chloride (2.28 g, 0.019 mol) and stirring was continued overnight at room temperature. The organic layer was washed with water, dried (anhydrous Na2SO4) and evaporated. The title compound was isolated by preparative HPLC and converted to the dihydrochloride salt; mp.=202°-204° C.

reactant | 3-[4-(2-methoxyphenyl)-1-piperazinyl]propanol | 0.019 mol, 4.76 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
reactant | triethylamine | 0.06 mol, 6 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.019 mol, 2.28 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethylpropanoic acid 3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl ester | COC1=C(C=CC=C1)N1CCN(CC1)CCCOC(C(C)(C)C)=O | C19H30N2O3
